US06555580B2
{[4-(3-{[Benzyl(isopropyl)amino]methyl}-4-hydroxyphenoxy)-3,5-dimethylphenyl]amino}(oxo)acetic acid
Ethyl {[4-(3-{[benzyl(isopropyl)amino]methyl}-4-hydroxyphenoxy)-3,5-dimethylphenyl]amino}(oxo)acetate (50 mg, 0,10 mmol) and NaOH (40 mg, 1.02 mmol) are dissolved in dioxane/water (0.5 1, 1:1 v/v) and stirred at room temperature for 1 h. The reaction mixture is partitioned between ethyl acetate and potassium dihydrogen phosphate/disodium hydrogen phosphate buffer solution (pH 7), and the organic phase is salted out with NaCl, filtered and evaporated. The resulting crude product is purified by preparative RP-HPLC with a water/acetonitrile/TFA eluent.

reactant | Ethyl {[4-(3-{[benzyl(isopropyl)amino]methyl}-4-hydroxyphenoxy)-3,5-dimethylphenyl]amino}(oxo)acetate | 0,10 mmol, 50 mg | C(C1=CC=CC=C1)N(C(C)C)CC=1C=C(OC2=C(C=C(C=C2C)NC(C(=O)OCC)=O)C)C=CC1O | C29H34N2O5
reactant | NaOH | 1.02 mmol, 40 mg | [OH-].[Na+]
solvent | dioxane water | O1CCOCC1.O
product | {[4-(3-{[Benzyl(isopropyl)amino]methyl}-4-hydroxyphenoxy)-3,5-dimethylphenyl]amino}(oxo)acetic acid | C(C1=CC=CC=C1)N(C(C)C)CC=1C=C(OC2=C(C=C(C=C2C)NC(C(=O)O)=O)C)C=CC1O | C27H30N2O5
